US07572820B2
A. 3-[(Tetrahydro-2H-pyran-2-yloxy)methyl]-5-[3,5-bis(trifluoromethyl)phenyl] isoxazole
To a solution of 2-[(2-nitroethyl)oxy]tetrahydro-2H-pyran (483 μL, 3.15 mmol) and 1-ethynyl-3,5-bis(trifluoromethyl)benzene (3.0 g, 12.6 mmol) in dry acetonitrile (15 mL) were added TEA (4.4 ml, 31.5 mmol) and isocyanatobenzene (3.4 mL, 31.5 mmol) at rt. The reaction is stirred at 50° C. for 5 h. Water was added and the mixture was extracted with Et2O three times. The combined organic layers were then washed with brine once, dried over MgSO4 and concentrated in vacuo. The residue was purified by radial chromatography (0-40% EtOAc-hexanes gradient) to afford the title compound (0.51 g, 41% yield): MS (ES) m/z 418 (M+Na+).

reactant | 2-[(2-nitroethyl)oxy]tetrahydro-2H-pyran | 3.15 mmol, 483 μL | [N+](=O)([O-])CCOC1OCCCC1 | C7H13NO4
reactant | 1-ethynyl-3,5-bis(trifluoromethyl)benzene | 12.6 mmol, 3.0 g | C(#C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H4F6
reactant | isocyanatobenzene | 31.5 mmol, 3.4 mL | N(=C=O)C1=CC=CC=C1 | C7H5NO
reactant | Water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-[(Tetrahydro-2H-pyran-2-yloxy)methyl]-5-[3,5-bis(trifluoromethyl)phenyl] isoxazole | 0.51 g, 41% yield | O1C(CCCC1)OCC1=NOC(=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H15F6NO3
